US08865712B2
c) 2-Amino-2-(6-bromo-pyridin-2-yl)-propionic acid
A solution of 4-(6-bromo-pyridin-2-yl)-4-methyl-2,5-dioxo-imidazolidine-1,3-dicarboxylic acid di-tert-butyl ester (31.53 g, 67.0 mmol) in 2.5M aq. NaOH soln. (215 ml) was refluxed for 40 h. The reaction mixture was diluted with EtOAc (100 ml) and filtered. The filtrates were separated and the org. layer was washed with H2O. The combined aq. layers were evaporated to dryness to leave a solid that was suspended in MeOH (350 ml) and stirred for 30 min. The suspension was filtered and the white precipitate was washed with MeOH. The filtrates were evaporated to leave a pale orange solid which was used for the next step without further purification.

reactant | 4-(6-bromo-pyridin-2-yl)-4-methyl-2,5-dioxo-imidazolidine-1,3-dicarboxylic acid di-tert-butyl ester | 67.0 mmol, 31.53 g | C(C)(C)(C)OC(=O)N1C(N(C(C1=O)(C)C1=NC(=CC=C1)Br)C(=O)OC(C)(C)C)=O | C19H24BrN3O6
reactant | NaOH | 2.5M | [OH-].[Na+]
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 350 ml | CO | CH4O
product | 2-Amino-2-(6-bromo-pyridin-2-yl)-propionic acid | NC(C(=O)O)(C)C1=NC(=CC=C1)Br | C8H9BrN2O2
